US04303655
To a suspension of ethyl 2-hydroxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-hydroxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate, (1.0 g.) and 3,4-dihydro-2H-pyran (0.36 g.) in ethyl acetate (5 ml.) was added p-toluene sulfonic acid (10 mg.) at room temperature with stirring, and then the suspension was stirred for 8 hours at the same temperature. After the reaction, the reaction mixture was poured into 5% sodium bicarbonate aqueous solution (10 ml.) and then the aqueous layer was separated. To the remaining organic layer was added diethyl ether (10 ml.) and then extracted with 5% sodium bicarbonate aqueous solution (20 ml.). Thus obtained aqueous extract was combined with the separated aqueous layer and adjusted to pH 4 with acetic acid and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, treated with activated charcoal and then dried over magnesium sulfate. The solvent was distilled off from the extract to give dark yellow oil of ethyl 2-(2-tetrahyropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate, (1.0 g.).

reactant | ethyl 2-hydroxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetate | OC(C(=O)OCC)C=1N=C(SC1)NS(=O)(=O)C | C8H12N2O5S2
reactant | ethyl 2-hydroxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate | OC(C(=O)OCC)C=1NC(SC1)=NS(=O)(=O)C | C8H12N2O5S2
reactant | 3,4-dihydro-2H-pyran | 0.36 g | O1CCCC=C1 | C5H8O
reactant | p-toluene sulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-tetrahyropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetate | O1C(CCCC1)OC(C(=O)OCC)C=1N=C(SC1)NS(=O)(=O)C | C13H20N2O6S2
